US07714004B2
Preparation of 3-[(2-chloro-4-pyrimidinyl)oxy]-1-propanol
To a round-bottom flask charged with NaH (336 mg, 8.29 mmol, 60% dispersion in mineral oil) and THF (100 mL), 1,3-propanediol (0.91 mL, 12.6 mmol) was added dropwise [H2 evolution] at rt. The reaction mixture was stirred for 30 min, then 2,4-dichloropyrimidine (5.0 g, 33.6 mmol) was added, and the reaction mixture was stirred for an additional 72 h. Brine was slowly added and the aqueous phase was extracted with EtOAc. The combined organic phases were dried (MgSO4), filtered, and concentrated under reduced pressure. The residue was purified by silica gel flash chromatography to provide the product (350 mg, 22%) as a colorless oil. 1H NMR (400 MHz, CDCl3): δ 2.01 (qt, 2H), 2.43-2.52 (b, 1H), 3.76 (t, 2H), 4.51 (t, 2H), 6.63 (d, 1H), 8.25 (d, 1H) LC-MS: RT=1.05 min, (M+H)+ 189.1.

reactant | NaH | 8.29 mmol, 336 mg | [H-].[Na+]
reactant | THF | 100 mL | C1CCOC1 | C4H8O
reactant | 1,3-propanediol | 12.6 mmol, 0.91 mL | C(CCO)O | C3H8O2
reactant | 2,4-dichloropyrimidine | 33.6 mmol, 5.0 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
solvent | Brine | [Cl-].[Na+].O
product | 3-[(2-chloro-4-pyrimidinyl)oxy]-1-propanol | 350 mg, 22% | ClC1=NC=CC(=N1)OCCCO | C7H9ClN2O2
